US07601722B2
In an analogous manner as described in general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.07 g, 0.18 mmol) was treated with 2,6-Dimethyl-piperazine (0.06 g, 0.54 mmol) to provide 0.07 g (92%) of 1-{2-[2-(3,5-dimethylpiperazin-1-yl)ethoxy]ethyl}-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.18 mmol, 0.07 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H16BrFN2O3S
reactant | 2,6-Dimethyl-piperazine | 0.54 mmol, 0.06 g | CC1NC(CNC1)C | C6H14N2
product | 1-{2-[2-(3,5-dimethylpiperazin-1-yl)ethoxy]ethyl}-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.07 g, 92% | CC1CN(CC(N1)C)CCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C22H29FN4O3S
